US09376400B2
A solution of 3-[2-Fluoro-4′-({[1-(4-methoxy-benzyl)-1H-[1,2,3]triazol-4-ylmethyl]-amino}-methyl)-biphenyl-4-yl]-5-(4-trimethylsilanyl-[1,2,3]triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride (SC-167-63-2, 0.22 g, 0.343 mmol) in an 1 M solution of tetrabutylammonium fluoride in THF (TBAF, 1.4 mL, 1.4 mmol, 4.0 equiv) was treated with acetic acid (HOAc, 5.0 mL) at room temperature, and the resulting reaction mixture was stirred at room temperature for 24 h. When TLC and HPLC/MS showed that the reaction was complete, the solvents were removed in vacuo. The residue was treated with H2O (30 mL) at room temperature and the resulting mixture was stirred at room temperature for 1 h. The solids were collected by filtration, washed with H2O (2×10 mL) and 20% EtOAc/hexane (2×20 mL), dried in vacuo. The crude, desired (5R)-3-[2-Fluoro-4′-({[1-(4-methoxy-benzyl)-1H-[1,2,3]triazol-4-ylmethyl]-amino}-methyl)-biphenyl-4-yl]-5-[1,2,3]triazol-1-ylmethyl-oxazolidin-2-one (SC-167-71, 0.17 g, 0.195 g theoretical, 87%) was obtained as off-white powders, which by HPLC/MS and 1H NMR was found to be essentially pure and was directly used in the subsequent reactions without further purification. For SC-167-71: 1H NMR (300 MHz, DMSO-d6) 3.73 and 3.75 (two, s, 4H), 3.94-3.97 (m, 1H, 4.29 (t, 1H), 4.85 and 4.87 (dd, 2H), 5.15-5.20 (m, 1H, 5.48 (s, 1H), 6.91 and 6.94 (d, 2H), 7.28-7.58 (m, 10H, aromatic-H), 7.78 (s, 11-1, triazole-H), 7.98 (s, 1H, triazole-H), 8.19 (s, 1H, triazole-H); C30H29FN8O3, LCMS (EI) m/e 568 (M++H).

reactant | 3-[2-Fluoro-4′-({[1-(4-methoxy-benzyl)-1H-[1,2,3]triazol-4-ylmethyl]-amino}-methyl)-biphenyl-4-yl]-5-(4-trimethylsilanyl-[1,2,3]triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride | 0.343 mmol, 0.22 g | Cl.FC1=C(C=CC(=C1)N1C(OC(C1)CN1N=NC(=C1)[Si](C)(C)C)=O)C1=CC=C(C=C1)CNCC=1N=NN(C1)CC1=CC=C(C=C1)OC
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 1.4 mmol, 1.4 mL, 4.0 equiv | C1CCOC1 | C4H8O
solvent | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
product | (5R)-3-[2-Fluoro-4′-({[1-(4-methoxy-benzyl)-1H-[1,2,3]triazol-4-ylmethyl]-amino}-methyl)-biphenyl-4-yl]-5-[1,2,3]triazol-1-ylmethyl-oxazolidin-2-one | 0.17 g, 87% | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)C1=CC=C(C=C1)CNCC=1N=NN(C1)CC1=CC=C(C=C1)OC | C30H29FN8O3
